US06245804B1
4-(3-Bromo-4-methoxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethyl-valeric acid
From 2-hydroxy-4-(4-methoxyphenyl)-4-methyl-2-trifluoromethyl-valeric acid ethyl ester by bromation with N-bromosuccinimide in dimethylformamide at 0° C. and subsequent saponification. Melting point 94-96° C.

reactant | 2-hydroxy-4-(4-methoxyphenyl)-4-methyl-2-trifluoromethyl-valeric acid ethyl ester | C(C)OC(C(CC(C)(C)C1=CC=C(C=C1)OC)(C(F)(F)F)O)=O | C16H21F3O4
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4-(3-Bromo-4-methoxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethyl-valeric acid | BrC=1C=C(C=CC1OC)C(CC(C(=O)O)(C(F)(F)F)O)(C)C | C14H16BrF3O4
